US07320995B2
A. 3-carboxy-2-phenyl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole
To a solution of 3-ethoxycarbonyl-2-phenyl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole (2.1 g, 8.2 mmol) in MeOH (20 mL) add a solution of NaOH (15%, 40 mL) followed by acetonitrile (5 mL) and stirr at 50° C. for 3 hours. Cool the mixture to room temperature and add HCl (10%) until a pH of 3 is reached. Extract the mixture with EtOAc (3×100 mL) and wash with saturated aqueous sodium chloride (100 mL), dry (MgSO4), and concentrate in vacuo to give a yellow solid, 1.82 g, 97% yield, MS(ES+): m/z=229.1 (M+H)+

reactant | 3-ethoxycarbonyl-2-phenyl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | 8.2 mmol, 2.1 g | C(C)OC(=O)C1=C2N(N=C1C1=CC=CC=C1)CCC2 | C15H16N2O2
reactant | NaOH | 40 mL | [OH-].[Na+]
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
reactant | HCl | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | 3-carboxy-2-phenyl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | 97% yield | C(=O)(O)C1=C2N(N=C1C1=CC=CC=C1)CCC2 | C13H12N2O2
